US06359134B1
1-(4-Methylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine hydrochloride
To 1-(4-methylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine (373 mg) was added 4 N hydrochloric acid in ethyl acetate solution (5 ml), and the precipitated hydrochlorides were filtered to give the title compound (387 mg).

reactant | 1-(4-methylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine | 373 mg | CNCC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C=C1 | C23H25N3O3S
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-Methylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine hydrochloride | 387 mg | Cl.CNCC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C=C1 | InChI=1S/C23H25N3O3S.ClH/c1-24-17-18-6-8-20(9-7-18)23(27)25-12-14-26(15-13-25)30(28,29)22-11-10-19-4-2-3-5-21(19)16-22;/h2-11,16,24H,12-15,17H2,1H3;1H
